US07576109B2
Intermediate: {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-acetic acid methyl ester
To a solution of 4-butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole (278 mg, 0.83 mmol) in anhydrous DMF (5 mL) add cesium carbonate (297 mg, 1.66 mmol) and methyl 4-hydroxyphenylacetate (200 mg, 1.20 mmol). Stir the resulting mixture overnight then pour into water and extract twice with ethyl acetate. Wash the combined extracts with water, dry over MgSO4, filter and concentrate under vacuum to give the title compound (290 mg) as a yellowish solid.

reactant | 4-butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.83 mmol, 278 mg | C(CCC)C=1N=C(SC1CCl)C1=CC=C(C=C1)C(F)(F)F | C15H15ClF3NS
reactant | cesium carbonate | 1.66 mmol, 297 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-hydroxyphenylacetate | 1.20 mmol, 200 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-acetic acid methyl ester | 290 mg | COC(CC1=CC=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCC)=O | C24H24F3NO3S
